US07169784B2
One-Pot Synthesis of 6-chloro-N-(3-chloro-4-methoxyphenyl)-N′-cycloheptyl-[1,3,5]triazine-2,4-diamine (133)
A convenient, one-pot synthesis of 6-chloro-N-(3-chloro-4-methoxyphenyl)-N′-cyclopheptyl-[1,3,5]triazine-2,4-diamine was carried out as follows. To cyanuric chloride (50 g) dissolved in acetone was added a solution of 3-chloro-4-methoxyaniline (42.5 g) in acetone at 0–5° C. followed by the addition of potassium carbonate (112 g). The reaction mass was maintained at the same temperature for about 1 hour. The progress of the reaction was monitored by TLC. When the reaction was complete, cycloheptylamine (29 g dissolved in acetone) was added at 0–10° C. The reaction mass was maintained under reflux for about 2–3 hours. Completion of the reaction was checked by TLC. The reaction mass was cooled to 20–30° C. and poured over crushed ice under stirring. The solid compound thrown out was filtered and dried. The crude compound was then recrystallised from ethylacetate (Wt. 50 g Y: 48%).

reactant | cyanuric chloride | 50 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 3-chloro-4-methoxyaniline | 42.5 g | ClC=1C=C(N)C=CC1OC | C7H8ClNO
reactant | potassium carbonate | 112 g | C([O-])([O-])=O.[K+].[K+]
reactant | cycloheptylamine | 29 g | C1(CCCCCC1)N | C7H15N
solvent | acetone | CC(=O)C | C3H6O
product | 6-chloro-N-(3-chloro-4-methoxyphenyl)-N′-cycloheptyl-[1,3,5]triazine-2,4-diamine | ClC1=NC(=NC(=N1)NC1=CC(=C(C=C1)OC)Cl)NC1CCCCCC1 | C17H21Cl2N5O
